US07323460B2
Methylamine gas was condensed into a sealed tube at −78° C., and a solution of 5-chloro-2-benzofuran-1(3H)-one (6.68 g, 39.8 mmol) in methanol (30 mL) was added. The solution was slowly warmed to room temperature overnight; The reaction was concentrated in vacuo, and the residue was partitioned between water and and chloroform. After three extractions with chloroform, the combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 4-chloro-2-(hydroxymethyl)-N-methylbenzamide.

reactant | Methylamine | CN | CH5N
reactant | 5-chloro-2-benzofuran-1(3H)-one | 39.8 mmol, 6.68 g | ClC1=CC2=C(C(OC2)=O)C=C1 | C8H5ClO2
solvent | methanol | 30 mL | CO | CH4O
product | 4-chloro-2-(hydroxymethyl)-N-methylbenzamide | ClC1=CC(=C(C(=O)NC)C=C1)CO | C9H10ClNO2
